US09382237B2
Dissolved 0.500 g 2-cyano-3,3-bis(methylthio)acrylamide in 15 mL EtOH and added 4-methyl-1-(4-aminophenyl)-1H-imidazole (1.0 eq.). Stirred reaction at 75° C. until starting amide was absent by HPLC. Once complete (18 hrs), reaction was brought to room temperature and filtered to obtain a light yellow powder as product. Product was allowed to dry under vacuum for 1 hr. Product was then suspended in 10 mL EtOH and hydrazine hydrate (1 eq.) was added dropwise. Reaction was heated at 75° C. until intermediate was absent (HPLC). Once intermediate was absent (18 hrs), reaction was brought to room temperature and filtered to obtain 5-amino-3-((4-(4-methyl-1H-imidazol-1-yl)phenyl)amino)-1H-pyrazole-4-carboxamide as a yellow powder. Product was allowed to dry under vacuum for 1 hr.

reactant | 2-cyano-3,3-bis(methylthio)acrylamide | 0.500 g | C(#N)C(C(=O)N)=C(SC)SC | C6H8N2OS2
reactant | 4-methyl-1-(4-aminophenyl)-1H-imidazole | 1.0 eq. | CC=1N=CN(C1)C1=CC=C(C=C1)N | C10H11N3
reactant | hydrazine hydrate | 1 eq. | O.NN
solvent | EtOH | 15 mL | CCO | C2H6O
product | 5-amino-3-((4-(4-methyl-1H-imidazol-1-yl)phenyl)amino)-1H-pyrazole-4-carboxamide | NC1=C(C(=NN1)NC1=CC=C(C=C1)N1C=NC(=C1)C)C(=O)N | C14H15N7O
